US04895860
Step (1) Preparation of Methyl 5-Chloro-2-methoxybenzoate
A mixture of 5-chlorosalicylic acid (20.0 g, 0.116 mol), potassium carbonate (40.3 g, 0.290 mol), and dimethyl sulfate (36.5 g, 0.290 mol) in acetone (300 mL) was heated at reflux for 18 hours. The mixture was cooled, concentrated, diluted with H2O, and extracted with ethyl acetate (3×150 mL). The extracts were washed with H2O and saturated NaCl, dried (MgSO4), and concentrated to give 23.10 g (99%) of product as a brown oil.

reactant | 5-chlorosalicylic acid | 0.116 mol, 20.0 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | potassium carbonate | 0.290 mol, 40.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.290 mol, 36.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | Methyl 5-Chloro-2-methoxybenzoate | 23.10 g, 99% | ClC=1C=CC(=C(C(=O)OC)C1)OC | C9H9ClO3
